US04503045
2.0 Grams of 2'-deoxy-3',5'-di-O-propionyl-5-fluorouridine are dissolved in 25 ml of dry dioxane and the solution is ice cooled. 2 Milliliters of triethylamine and 1.8 g of 3-fluorobenzoyl chloride are added to the solution and the mixture is subjected to reaction at room temperature for 15 minutes and then at 60° C. for 30 minutes. The reaction liquid is worked up in the same manner as described in Example 1 whereby 2.05 g (yield: 71.5%) of powdery 3-(3-fluorobenzoyl)-2'-deoxy-3', 5'-di-O-propionyl-5-fluorouridine are obtained.

reactant | 2'-deoxy-3',5'-di-O-propionyl-5-fluorouridine | C(CC)(=O)O[C@H]1C[C@@H](O[C@@H]1COC(CC)=O)N1C(=O)NC(=O)C(=C1)F | C15H19FN2O7
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 3-fluorobenzoyl chloride | 1.8 g | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | 3-(3-fluorobenzoyl)-2'-deoxy-3', 5'-di-O-propionyl-5-fluorouridine | 2.05 g, yield: 71.5% | FC=1C=C(C(=O)N2C(N([C@H]3C[C@H](OC(CC)=O)[C@@H](COC(CC)=O)O3)C=C(C2=O)F)=O)C=CC1 | C22H22F2N2O8
